US07728025B2
(Step 9) Production of 6-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-(4-methanesulfonyl-phenoxy)-2-pyrazin-2-yl-1H-benzimidazole
9.2 mg of 4-methanesulfonyl-phenol and 26.2 mg of cesium carbonate were added to an N-methylpyrrolidinone (1 ml) solution of 10.4 mg of N-(4-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazine-2-carboxamide, and the reaction liquid was stirred at 90° C. for 1 hour. 60 mg of tin(II) chloride dihydrate was added to it, and the reaction liquid was stirred at 90° C. for 1 h our and at 100° C. for 2 hours. Ethyl acetate and aqueous saturated sodium bicarbonate were added to the reaction liquid, the resulting deposit was removed through filtration, extracted with ethyl acetate, and the organic layer was washed with water and saturated saline, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain the entitled compound as a pale yellow oily substance.

reactant | 4-methanesulfonyl-phenol | 9.2 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | cesium carbonate | 26.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(4-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazine-2-carboxamide | 10.4 mg | C(C)(=O)N1[C@H](CC[C@@H]1C)C1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C18H18FN5O4
reactant | tin(II) chloride dihydrate | 60 mg | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 6-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-(4-methanesulfonyl-phenoxy)-2-pyrazin-2-yl-1H-benzimidazole | C(C)(=O)N1[C@H](CC[C@@H]1C)C=1C(=CC2=C(NC(=N2)C2=NC=CN=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C25H25N5O4S
